US06222062B1
2-Benzo[1,3]dioxol-5-ylmethyl-3-oxo-butyric acid ethyl ester
To a solution of 117.2 g sodium iodide in 700 ml of acetonitrile, first 85.9 g trimethylchlorosilane and then 20.56 g ethyl acetoacetate were dropped in at room temperature. After cooling down to 0-5° C., a solution of 23.65 g Piperonal in 50 ml of acetonitrile was dropped in. Then the mixture was stirred at room temperature for 5 hours and then at 60° C. overnight. After the mixture was cooled down to room temperature it was diluted with ether and water. The organic phase was separated and washed with saturated sodium thiosulfate until the color of the iodine was gone. Then the organic phase was washed with water, dried, filtered and evaporated to dryness. The resulting dark oil was purified by chromatography to yield 13.7 g of a yellow oil.

reactant | sodium iodide | 117.2 g | [I-].[Na+]
reactant | trimethylchlorosilane | 85.9 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | ethyl acetoacetate | 20.56 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | Piperonal | 23.65 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
solvent | acetonitrile | 700 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-Benzo[1,3]dioxol-5-ylmethyl-3-oxo-butyric acid ethyl ester | 13.7 g | C(C)OC(C(C(C)=O)CC1=CC2=C(OCO2)C=C1)=O | C14H16O5
